US04898936
Methyl 2-deoxy-5-O-tritylribofuranoside
To a solution of 11.2 g (0.07 mole) of methyl 2-deoxyribofuranoside (90% pure) in 60 ml of dry pyridine under a dry nitrogen atmosphere were added 19.0 g (0.07 mole) of triphenylmethyl chloride. The mixture was stirred at ambient temperature for three days. Methanol (35 ml) was then added. The solvents were then evaporated under reduced pressure. The residue was taken up in 200 ml of ethyl acetate, washed with 75 ml of 5% sodium bicarbonate followed by a 75 ml wash with DI (deionized) water. The organic layer was dried (Na2SO4), filtered and the solvent removed under vacuum affording a sticky, viscous oil. This crude methyl 2-deoxy-5-O-tritylriboruanoside compound was used without further purification in subsequent synthetic procedures.

reactant | methyl 2-deoxyribofuranoside | 0.07 mole, 11.2 g | O(C1C[C@H](O)[C@H](O1)CO)C | C6H12O4
reactant | triphenylmethyl chloride | 0.07 mole, 19.0 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | Methanol | 35 ml | CO | CH4O
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 2-deoxy-5-O-tritylribofuranoside | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1[C@H](CC(OC)O1)O | C25H26O4
